US07625932B2
Preparation of 4-Cyano-5-ethyl-1-methyl-3-[4-(1H-tetrazol-5-yl)-phenyl]-1H-pyrrole-2-carboxylic acid ethyl ester
Into a round bottom flask containing 4-cyano-5-ethyl-3-{4-[1-(4-methoxybenzyl)-1H-tetrazol-5-yl]-phenyl}-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (0.15 g, 0.33 mmol, prepared in example E-241) add TFA (2 mL) and stir over night. Concentrate the mixture and azeotrope the residue with a mixture of methylene chloride/hexanes. Dilute the mixture with 0.500 N HCl (20 mL) and extract with ethyl acetate (3×30 mL). Combine the organic extracts, dry over anhydrous sodium sulfate, filter, and concentrate under reduced pressure. Purify the residue by silica gel chromatography (eluent: 0 to 5% MeOH/ethyl acetate). Concentrate the purified fractions under reduced pressure and place under vacuum to provide the title compound as a tan solid (0.105 g); mass spectrum (m/e): 351.05 (M+H)

reactant | 4-cyano-5-ethyl-3-{4-[1-(4-methoxybenzyl)-1H-tetrazol-5-yl]-phenyl}-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 0.33 mmol, 0.15 g | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=NN=NN1CC1=CC=C(C=C1)OC)C#N)CC)C | C26H26N6O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Cyano-5-ethyl-1-methyl-3-[4-(1H-tetrazol-5-yl)-phenyl]-1H-pyrrole-2-carboxylic acid ethyl ester | 0.105 g | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=NN=NN1)C#N)CC)C | C18H18N6O2
